US07786132B2
A mixture of 5-(2-(methylthio)pyrimidin-4-yl)thiophene-2-carboxylic acid (200 mg, 0.79 mmol), morpholine (69 mg, 0.79 mmol), EDCI (182 mg, 0.95 mmol), HOAt (21 mg, 0.16 mmol) and triethylamine (159 mg, 1.58 mmol) in dichloromethane (20 mL) was stirred at rt for 24 h. Water (50 mL) was added and the mixture was extracted with dichloromethane (3×50 mL). The combined organic layers were washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the residue purified by flash chromatography eluting with ethyl acetate/hexane (1:1) to give the intermediate (5-(2-(methylthio)pyrimidin-4-yl)thiophen-2-yl)(morpholino)methanone as a white solid (200 mg, 78%). MS (M+H)+ 322.

reactant | 5-(2-(methylthio)pyrimidin-4-yl)thiophene-2-carboxylic acid | 0.79 mmol, 200 mg | CSC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O | C10H8N2O2S2
reactant | morpholine | 0.79 mmol, 69 mg | N1CCOCC1 | C4H9NO
reactant | EDCI | 0.95 mmol, 182 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.16 mmol, 21 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 1.58 mmol, 159 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Water | 50 mL | O | H2O
product | (5-(2-(methylthio)pyrimidin-4-yl)thiophen-2-yl)(morpholino)methanone | 200 mg, 78% | CSC1=NC=CC(=N1)C1=CC=C(S1)C(=O)N1CCOCC1 | C14H15N3O2S2
